US09388189B2
b) 2,4-Difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide
N-(3-Bromo-5-hydroxyphenyl)-2,4-difluorobenzenesulfonamide (1.23 g, 3.38 mmol), bis(pinacolato)diboron (1.72 g, 6.77 mmol), potassium acetate (1.0 g, 10.19 mmol), diphenylphosphino)ferrocene (0.19 g, 0.34 mmol) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.28 g, 0.34 mmol) were suspended in dioxane (50 ml) and heated overnight at 100° C. After usual work-up with water and ethyl acetate, the reaction crude was purified by flash chromatography using SP1® Purification System (0% to 5%, dichloromethane-methanol) to obtain 1.09 g of the title compound as an oil. (67% yield). Purity: 88%.

reactant | N-(3-Bromo-5-hydroxyphenyl)-2,4-difluorobenzenesulfonamide | 3.38 mmol, 1.23 g | BrC=1C=C(C=C(C1)O)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C12H8BrF2NO3S
reactant | bis(pinacolato)diboron | 6.77 mmol, 1.72 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.19 mmol, 1.0 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | ferrocene | 0.34 mmol, 0.19 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-Difluoro-N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 1.09 g, 67% yield | FC1=C(C=CC(=C1)F)S(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C18H20BF2NO5S
